US06222034B1
f) Ethyl N-(3-carboethoxy-6-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-2-yl)ethanimidate
3.0 g (12.5 mmol) of 2-amino-3-carboethoxy-4,5,6,7-tetrahydrothieno[2,3-c]pyridine in 25 ml of triethyl orthoacetate were mixed with 0.8 ml of acetic anhydride and refluxed under nitrogen for 2 h. The mixture was then completely evaporated in a rotary evaporator at 80° C. 3.6 g (92%) of crude product were isolated as a dark oil which is sufficiently pure for the next reaction.

reactant | 2-amino-3-carboethoxy-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 12.5 mmol, 3.0 g | NC1=C(C2=C(CNCC2)S1)C(=O)OCC | C10H14N2O2S
reactant | acetic anhydride | 0.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl orthoacetate | 25 ml | C(C)(OCC)(OCC)OCC | C8H18O3
product | Ethyl N-(3-carboethoxy-6-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-2-yl)ethanimidate | 3.6 g, 92% | C(=O)(OCC)C1=C(SC=2CN(CCC21)C)N=C(C)OCC | C15H22N2O3S
